US06013764
H-Leu-Leu-Lys(Z)-Leu-Leu-OMe·HCl (SEQ. ID No. 2)
Boc-Leu-Leu-Lys(Z)-Leu-Leu-OMe (SEQ. ID No. 2) (18.2 g, 21.5 mmol) was added to a solution of HCl gas (31.0 g, 850 mmol) in MeOH (360 g) and cooled to 5° C. The reaction mixture was stirred, allowed to warm up to room temperature and stirring was continued for 4.5 h. The reaction mixture was cooled to 0° C., poured into ice/H2O (630 g) and stirred for 1 h. The white solid was collected by filtration, washed with distilled water (500 mL) and air dried. Yield of product: 14.8 g, 87.6%; HPLC area % purity: 99.2%.

reactant | Boc-Leu-Leu-Lys(Z)-Leu-Leu-OMe | 21.5 mmol, 18.2 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OC(C)(C)C | C44H74N6O10
reactant | HCl | 850 mmol, 31.0 g | Cl | ClH
solvent | MeOH | 360 g | CO | CH4O
product | H-Leu-Leu-Lys(Z)-Leu-Leu-OMe·HCl | N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC.Cl | InChI=1S/C39H66N6O8.ClH/c1-24(2)19-29(40)34(46)43-31(20-25(3)4)36(48)42-30(17-13-14-18-41-39(51)53-23-28-15-11-10-12-16-28)35(47)44-32(21-26(5)6)37(49)45-33(22-27(7)8)38(50)52-9;/h10-12,15-16,24-27,29-33H,13-14,17-23,40H2,1-9H3,(H,41,51)(H,42,48)(H,43,46)(H,44,47)(H,45,49);1H/t29-,30-,31-,32-,33-;/m0./s1
